US04539152
Sodium borohydride (10 mg) was added to a solution of methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-2-oxo-4-(2-oxoethyl)azetidin-1-yl]-3-methylbut-2-enoate (49 mg) in methanol (1 ml) at 0° C. The mixture was stirred at the same temperature for 20 minutes and quenched with acetic acid (~0.05 ml). The resulting solution was evaporated in vacuo. The residue was dissolved in dichloromethane and washed with brine containing sodium bicarbonate. The extract was dried over magnesium sulfate, evaporated, and chromatographed on silica gel (1.5 g, eluting with 5-10% acetone in dichloromethane) to give 39 mg of methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)-2-oxoazetidin-1-yl]-3-methylbut-2-enoate.

reactant | Sodium borohydride | 10 mg | [BH4-].[Na+]
reactant | methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-2-oxo-4-(2-oxoethyl)azetidin-1-yl]-3-methylbut-2-enoate | 49 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N([C@@H]1CC=O)C(C(=O)OC)=C(C)C)=O | C19H22N2O6
solvent | methanol | 1 ml | CO | CH4O
product | methyl 2-[(3R,4R)-3-benzyloxycarbonylamino-4-(2-hydroxyethyl)-2-oxoazetidin-1-yl]-3-methylbut-2-enoate | 39 mg | C(C1=CC=CC=C1)OC(=O)N[C@H]1C(N([C@@H]1CCO)C(C(=O)OC)=C(C)C)=O | C19H24N2O6
